US08877782B2
N-Isopropyl-6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-nicotinamide
As described for example 162b, 6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid (200 mg, 0.65 mmol) was converted using isopropylamine instead of ethanolamine to the title compound (SiO2, heptane:ethyl acetate=50:50 to 0:100, 185 mg, 82%) which was obtained as a white solid. MS: m/e=351.3 [M+H]+.

reactant | 6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid | 0.65 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CNC1=NC=C(C(=O)O)C=C1 | C17H15N3O3
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N-Isopropyl-6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-nicotinamide | 185 mg, 82% | C(C)(C)NC(C1=CN=C(C=C1)NCC=1C(=NOC1C)C1=CC=CC=C1)=O | C20H22N4O2
